* d:\esim_tut\files\mult4bits\mult4bits.cir

* u18  1 2 3 4 net-_u17-pad1_ net-_u17-pad2_ net-_u17-pad3_ net-_u17-pad4_ adc_bridge_4
* u19  5 6 7 8 net-_u17-pad5_ net-_u17-pad6_ net-_u17-pad7_ net-_u17-pad8_ adc_bridge_4
v3  3 gnd pulse(0 0 1m 1m 1m 160 160)
v5  2 gnd pulse(0 0 1m 1m 1m 160 160)
v7  1 gnd pulse(0 0 1m 1m 1m 160 160)
v1  4 gnd pulse(5 0 1m 1m 1m 80 160)
v4  6 gnd pulse(0 0 1m 1m 1m 160 160)
v6  7 gnd pulse(5 0 1m 1m 1m 40 160)
v8  8 gnd pulse(0 0 1m 1m 1m 160 160)
v2  5 gnd pulse(0 0 1m 1m 1m 160 160)
* u5  8 plot_v1
* u6  7 plot_v1
* u7  6 plot_v1
* u8  5 plot_v1
* u4  4 plot_v1
* u3  3 plot_v1
* u2  2 plot_v1
* u1  1 plot_v1
* u10  010 plot_v1
* u9  o9 plot_v1
* u11  o11 plot_v1
* u12  o12 plot_v1
* u14  o14 plot_v1
* u13  o13 plot_v1
* u15  o15 plot_v1
* u16  016 plot_v1
* u20  net-_u17-pad9_ net-_u17-pad10_ net-_u17-pad11_ net-_u17-pad12_ net-_u17-pad13_ net-_u17-pad14_ net-_u17-pad15_ net-_u17-pad16_ o9 010 o11 o12 o13 o14 o15 016 dac_bridge_8
* u17  net-_u17-pad1_ net-_u17-pad2_ net-_u17-pad3_ net-_u17-pad4_ net-_u17-pad5_ net-_u17-pad6_ net-_u17-pad7_ net-_u17-pad8_ net-_u17-pad9_ net-_u17-pad10_ net-_u17-pad11_ net-_u17-pad12_ net-_u17-pad13_ net-_u17-pad14_ net-_u17-pad15_ net-_u17-pad16_ arraymul4
a1 [1 2 3 4 ] [net-_u17-pad1_ net-_u17-pad2_ net-_u17-pad3_ net-_u17-pad4_ ] u18
a2 [5 6 7 8 ] [net-_u17-pad5_ net-_u17-pad6_ net-_u17-pad7_ net-_u17-pad8_ ] u19
a3 [net-_u17-pad9_ net-_u17-pad10_ net-_u17-pad11_ net-_u17-pad12_ net-_u17-pad13_ net-_u17-pad14_ net-_u17-pad15_ net-_u17-pad16_ ] [o9 010 o11 o12 o13 o14 o15 016 ] u20
a4 [net-_u17-pad1_ net-_u17-pad2_ net-_u17-pad3_ net-_u17-pad4_ ] [net-_u17-pad5_ net-_u17-pad6_ net-_u17-pad7_ net-_u17-pad8_ ] [net-_u17-pad9_ net-_u17-pad10_ net-_u17-pad11_ net-_u17-pad12_ net-_u17-pad13_ net-_u17-pad14_ net-_u17-pad15_ net-_u17-pad16_ ] u17
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u18 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u19 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u20 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             arraymul4, NgSpice Name: arraymul4
.model u17 arraymul4(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 0.1e-00 160e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(8)
plot v(7)
plot v(6)
plot v(5)
plot v(4)
plot v(3)
plot v(2)
plot v(1)
plot v(010)
plot v(o9)
plot v(o11)
plot v(o12)
plot v(o14)
plot v(o13)
plot v(o15)
plot v(016)
.endc
.end
